US07465795B2
4-amino-N-cyclopropyl-8-(5-fluoro-2-methoxyphenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 5-fluoro-2-methoxyphenylboronic acid (158 mg, 0.94 mmol) were reacted. After purification the title compound (125 mg, 76% yield) was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.54 (bm, 1H), 7.87 (a dd, J=3.1, 6.6 Hz, 1H), 7.73 (m, 2H), 7.10(m, 2H), 6.95 (m, 1H), 3.66 (s, 3H), 2.96 (m, 1H), 0.86 (m, 2H), 0.64 (m, 2H). MS APCI, m/z=353.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 5-fluoro-2-methoxyphenylboronic acid | 0.94 mmol, 158 mg | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
product | 4-amino-N-cyclopropyl-8-(5-fluoro-2-methoxyphenyl)cinnoline-3-carboxamide | 125 mg, 76% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)F)OC)C(=O)NC1CC1 | C19H17FN4O2
